data/mechanism_extracts/OrgChemFront/10.1039_D3QO01241G_sup_1.json
{"doi": "10.1039_D3QO01241G_sup_1", "journal": "OrgChemFront", "is_review": false, "rxn_class_summary": "Electrochemical three-component thioether-tetrazole synthesis from TMSN3, vinyl arenes, and arylthiols, proceeding through a thiyl radical addition / radical-polar crossover pathway as probed by a radical clock experiment.", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation generates a thiyl radical from the arylthiol (ArSH); the thiyl radical adds to the alkene, and subsequent oxidation/azide trapping with the tetrazole-forming step closes the cycle.", "key_intermediates": [{"name": "aryl thiyl radical (4-F-C6H4-S•)", "smiles": "[S]c1ccc(F)cc1", "role": "reactive"}, {"name": "cyclopropylcarbinyl radical from thiyl addition to 1-(2-phenylcyclopropyl)vinylbenzene", "smiles": null, "role": "transient"}, {"name": "ring-opened homoallyl/benzylic radical (radical clock product)", "smiles": null, "role": "reactive"}, {"name": "benzylic cation (after oxidation of ring-opened radical)", "smiles": null, "role": "transient"}, {"name": "azide adduct / 5-methyltetrazole product 32", "smiles": "Fc1ccc(SCC=CC(c2ccccc2)n3nnnc3C)cc1", "role": "reactive"}], "electron_flow": "ArSH is oxidized (anodically, mediated by Ar3N) to an arylthiyl radical that adds to the vinylarene; the resulting cyclopropylcarbinyl radical undergoes ring-opening (radical clock), and the ring-opened C-radical is further oxidized to a benzylic cation that is trapped by azide/tetrazole nitrogen to give 32.", "rate_determining_step": null, "probe_reagents": [{"name": "1-(2-phenylcyclopropyl)vinylbenzene (cyclopropyl radical clock)", "smiles": "C(=C)(c1ccccc1)C2CC2c3ccccc3", "purpose": "radical_clock", "observation": "Ring-opened product 32 isolated in 20% yield (7.6:1 dr), confirming a carbon-radical intermediate that opens the cyclopropane after thiyl addition."}], "evidence_types_used": ["radical_clock", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Only the radical clock experiment is shown on this page; other mechanistic probes (if any) are not included here. The ring-opened olefinic thioether-tetrazole product supports a stepwise radical addition followed by radical-polar crossover rather than a concerted pathway."}
